US04049584
100 g of α,α'-bis-(4-methylamino-phenyl)-p-diisopropylbenzene are hydrogenated in the presence of 1.0 g of the catalyst (2) (about 1% of ruthenium) at 180°- 200° C and 200° - 280° bars hydrogen pressure, until the absorption of hydrogen has ceased. Duration about 160 minutes. After cooling, the hydrogenation product is taken up in methanol, the solution is filtered and concentrated and the residue is distilled under reduced pressure. 103 g of α,α'-bis-(4-methylaminocyclohexyl)-p-diisopropylbenzene are obtained, corresponding to 100% of theory. Boiling range: 203° - 206° C/0.2 mm Hg, solidification point: 84° - 86° C.

reactant | α,α'-bis-(4-methylamino-phenyl)-p-diisopropylbenzene | 100 g | CNC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)NC | C26H32N2
reactant | hydrogen | [H][H] | H2
product | α,α'-bis-(4-methylaminocyclohexyl)-p-diisopropylbenzene | 103 g | CNC1CCC(CC1)C(C)(C)C1=CC=C(C=C1)C(C)(C)C1CCC(CC1)NC | C26H44N2
